US06825189B1
1-(6-Bromo-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine
1-(3-Pyridyl)-4-tert-butoxycarbonyl homopiperazine (25.0 g, 90.1 mmol) was solved in acetonitrile (400 ml) and cooled to 0° C. N-Bromosuccinimide (19.3 g, 108.2 mmol) was added during 10 min. Water (400 ml) was added and the mixture was extracted twice with diethyl ether (200 ml). Chromatography on silica gel with a mixture of petroleum:ethyl acetate (1:1) gave the title compound as free base. Yield 18.7 g, 58%.

reactant | 1-(3-Pyridyl)-4-tert-butoxycarbonyl homopiperazine | 90.1 mmol, 25.0 g | N1=CC(=CC=C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-Bromosuccinimide | 108.2 mmol, 19.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 400 ml | O | H2O
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1-(6-Bromo-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine | BrC1=CC=C(C=N1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22BrN3O2
